US04616014
3-(2-t-Butoxycarbonylhydrazino)-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine (5.27 g) was dissolved in a saturated methanolic solution of hydrogen chloride (40 ml), and the solution was allowed to stand at room temperature for 3.5 hours. The reaction mixture was evaporated under reduced pressure and the residual solid was recrystallized from ethanol to give colorless crystals of 3-hydrazino-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine hydrochloride (3.99 g), m.p. 214°~215° C.

reactant | 3-(2-t-Butoxycarbonylhydrazino)-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine | 5.27 g | C(C)(C)(C)OC(=O)NNC=1NN=C(C(N1)C)C1=CC=CC=C1 | C15H21N5O2
reactant | hydrogen chloride | 40 ml | Cl | ClH
product | 3-hydrazino-5-methyl-6-phenyl-2,5-dihydro-1,2,4-triazine hydrochloride | 3.99 g | Cl.N(N)C=1NN=C(C(N1)C)C1=CC=CC=C1 | InChI=1S/C10H13N5.ClH/c1-7-9(8-5-3-2-4-6-8)14-15-10(12-7)13-11;/h2-7H,11H2,1H3,(H2,12,13,15);1H
